* C:\Users\andre\Desktop\Universita\PrimoAnno\SecondoSemestre\ProgettiAnalogici\OpAmpProject\Noise_Basic.asc
XU1 Vin Vout Vout N001 N002 OPAMPBASIC
Cl Vout 0 5p
Vin Vin 0 PULSE(0 1 2u 0.1n 0.1n 2.5u 5u 2)
Vdd N001 0 2.5
Vss N002 0 -2.5
* Simulazione Rumore
.noise V(vout) Vin dec 1001 1k 10MEG
.lib C:\Users\andre\Desktop\Universita\PrimoAnno\SecondoSemestre\ProgettiAnalogici\OpAmpProject\OpAmpBasic.cir
.backanno
.end
