* C:\Users\andre\Desktop\Universita\PrimoAnno\SecondoSemestre\ProgettiAnalogici\OpAmpProject\OperationalAmplifier.asc
Cl1 VoutDyn 0 5p
Vin1 VinDyn 0 0 AC 1 0
Vdd1 N003 0 2.5
Vss1 N006 0 -2.5
Cl2 VoutNoise 0 5p
Vin2 VinNoise 0 PULSE(0 1 2u 0.1n 0.1n 2.5u 5u 2)
Vdd2 N002 0 2.5
Vss2 N005 0 -2.5
Cl3 VoutSR 0 5p
Vin3 VinSR 0 PULSE(0 1 10u 1n 1n 5u 10u 3)
Vdd3 N001 0 2.5
Vss3 N004 0 -2.5
Cl4 VoutSwingCM 0 5p
Vin4 VinSwingCM 0 1
Vdd4 N008 0 2.5
Vss4 N011 0 -2.5
Cl5 VoutSwingOut 0 5p
Vin5 VinSwingOut 0 1
Vdd5 N007 0 2.5
Vss5 N010 0 -2.5
R1 N009 VinSwingOut 10G
R2 VoutSwingOut N009 100G
XU1 VinDyn 0 VoutDyn N003 N006 myOPAMP
XU2 VinNoise VoutNoise VoutNoise N002 N005 myOPAMP
XU3 VinSR VoutSR VoutSR N001 N004 myOPAMP
XU4 VinSwingCM VoutSwingCM VoutSwingCM N008 N011 myOPAMP
XU5 0 N009 VoutSwingOut N007 N010 myOPAMP
* Simulazione P.M., Wo e DCgain
;ac dec 1000 1 10MEG
* Simulazione Rumore
;noise V(voutnoise) Vin2 dec 1001 1k 10MEG
* Simulazione Slew-Rate
;tran 0 40u 0
* Simulazione variazione Tensione di Modo Comune
;dc Vin4 -2.6 2.6 0.01
* Simulazione variazione Tensione d'Uscita
.dc Vin5 -2.6 2.6 0.01
.lib C:\Users\andre\Desktop\Universita\PrimoAnno\SecondoSemestre\ProgettiAnalogici\OpAmpProject\OperationalAmplifier.cir
.backanno
.end
